US08202873B2
2-{4-[4-(1,5-Dimethyl-1H-pyrazol-4-ylmethyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl-3′-yl]-phenyl}-acetamide hydrochloride
Dissolve 3′-chloro-4-(1,5-dimethyl-1H-pyrazol-4-ylmethyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl (307 mg, 1.0 mmol) in N,N-dimethylacetamide (4 mL). Add potassium carbonate (332 mg, 2.4 mmol), 2-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-acetamide (313 mg, 1.2 mmol), tetrakis(triphenylphosphine)palladium(0) (0.0050 g, 0.0058 mmol), then water (2 mL) and degas with nitrogen for 5 min. Heat at 120° C. for 20 hr. then purify by SCX-2® chromatography washing with methanol. Elute with 2 M ammonia in methanol and concentrate. Purify using silica gel chromatography (eluting with 5:95 to 20:80 methanol:DCM) to give an oil. Dissolve the free base in acetonitrile and convert to the hydrochloride salt by adding 2 M aq HCl solution. Add water and lyophilize to give the title compound as a light yellow powder (0.165 g, 37%). MS (ES): m/z=406 [M+H]+.

reactant | 3′-chloro-4-(1,5-dimethyl-1H-pyrazol-4-ylmethyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl | 1.0 mmol, 307 mg | ClC=1C(=NC=CN1)N1CCN(CC1)CC=1C=NN(C1C)C | C14H19ClN6
reactant | potassium carbonate | 2.4 mmol, 332 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-acetamide | 1.2 mmol, 313 mg | CC1(OB(OC1(C)C)C1=CC=C(C=C1)CC(=O)N)C | C14H20BNO3
reactant | HCl | 2 M | Cl | ClH
solvent | N,N-dimethylacetamide | 4 mL | CN(C(C)=O)C | C4H9NO
solvent | acetonitrile | C(C)#N | C2H3N
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.0058 mmol, 0.0050 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | O | H2O
solvent | water | 2 mL | O | H2O
product | 2-{4-[4-(1,5-Dimethyl-1H-pyrazol-4-ylmethyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl-3′-yl]-phenyl}-acetamide hydrochloride | 0.165 g, 37% | Cl.CN1N=CC(=C1C)CN1CCN(CC1)C1=NC=CN=C1C1=CC=C(C=C1)CC(=O)N | InChI=1S/C22H27N7O.ClH/c1-16-19(14-26-27(16)2)15-28-9-11-29(12-10-28)22-21(24-7-8-25-22)18-5-3-17(4-6-18)13-20(23)30;/h3-8,14H,9-13,15H2,1-2H3,(H2,23,30);1H
